US04762848
3-[2-(3-Carboxy-1-propylthio)-4-methyl-1,3-thiazol-5-yl]-propionic acid
2 g (8.6 mmol) of ethyl 3-[2-mercapto-4-methyl-1,3-thiazol-5-yl]propionate were initially introduced into 40 ml of dry DMF, and 1.48 g (11 mmol) of powdered K2CO3 and 1.23 ml (8.6 mmol) of ethyl 4-bromobutyrate were added, and the reaction mixture was stirred at 50° C. for 2 hours. A solid residue was filtered off with suction, the DMF was removed in vacuo, and 3.6 g of a crude product were obtained, and this was taken up in 25 ml of ethanol. After addition of 1N sodium hydroxide solution, the mixture was stirred at room temperature for 2 hours, and the ethanol was removed in vacuo, and the aqueous residue was adjusted to pH 3 with hydrochloric acid. The solution was extracted with ethyl acetate, and the organic phase was dried with MgSO4 and evaporated. 2.2 g (88%) of the title compound were obtained as an oil.

reactant | ethyl 3-[2-mercapto-4-methyl-1,3-thiazol-5-yl]propionate | 8.6 mmol, 2 g | SC=1SC(=C(N1)C)CCC(=O)OCC | C9H13NO2S2
reactant | K2CO3 | 11 mmol, 1.48 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 4-bromobutyrate | 8.6 mmol, 1.23 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-[2-(3-Carboxy-1-propylthio)-4-methyl-1,3-thiazol-5-yl]-propionic acid | 2.2 g, 88% | C(=O)(O)CCCSC=1SC(=C(N1)C)CCC(=O)O | C11H15NO4S2
